US06548493B1
3-(3,4-Dihydro-1(2H)-quinolinylimino)-1-cyclohexen-1-ol hydrochloride (4.78 g, 17 mmol) was mixed with AcOH (37 mL) and conc. HCl (6.1 mL). The reaction mixture was refluxed for lh and cooled to RT. The reaction mixture was concentrated in vacuo then the residue was dissolved in CH2Cl2. The organic solution was washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed in silica gel (hex:EtOAc 1:1) to give 5,6,9,10-tetrahydro-4H-pyrido[3,2,1-jk]carbazol-11(8H)-one (1.25 g, 33%) as a light yellow solid.

reactant | 3-(3,4-Dihydro-1(2H)-quinolinylimino)-1-cyclohexen-1-ol hydrochloride | 17 mmol, 4.78 g | Cl.N1(CCCC2=CC=CC=C12)N=C1C=C(CCC1)O
reactant | HCl | 6.1 mL | Cl | ClH
reactant | AcOH | 37 mL | CC(=O)O | C2H4O2
product | 5,6,9,10-tetrahydro-4H-pyrido[3,2,1-jk]carbazol-11(8H)-one | 1.25 g, 33% | C1=C2C=3C(CCCC3N3C2=C(C=C1)CCC3)=O | C15H15NO
